US04590189
Ethyl 6-chloro-3-oxo-2-(4-methoxyphenyl)isoindoline-1-acetate (1.0 g) and N-methylpiperazine (1.3 g) was heated at 110° C. for 4 hours in an nitrogen stream. After cooling, water (40 ml) was added to the reaction mixture and crystals separated were collected by filtration, washed with water and then dried. Recrystallization from ether gave 5-chloro-2-(4-methoxyphenyl)-3-(4-methylpiperazin-1-yl)carbonylmethylisoindolin-1-one (1.0 g). The product was identified with the compound No. 13 in Table 5 and melted at 169°-171° C.

reactant | Ethyl 6-chloro-3-oxo-2-(4-methoxyphenyl)isoindoline-1-acetate | 1.0 g | ClC1=CC=C2C(N(C(C2=C1)CC(=O)OCC)C1=CC=C(C=C1)OC)=O | C19H18ClNO4
reactant | N-methylpiperazine | 1.3 g | CN1CCNCC1 | C5H12N2
solvent | water | 40 ml | O | H2O
product | 5-chloro-2-(4-methoxyphenyl)-3-(4-methylpiperazin-1-yl)carbonylmethylisoindolin-1-one | 1.0 g | ClC=1C=C2C(N(C(C2=CC1)=O)C1=CC=C(C=C1)OC)CC(=O)N1CCN(CC1)C | C22H24ClN3O3
